US07799779B2
j) 4-(4-Benzyloxyphenyl)-1-(1-phenylethyl)-3-triisopropylsilanyloxy-1,2,3,4-tetrahydro-pyridine
A suspension of 14.70 g of 4-(4-benzyloxyphenyl)-1-(1-phenylethyl)-1,2,3,4-tetrahydro-pyridin-3-ol [257928-45-3] in 250 ml of dichloromethane is mixed with 6.80 ml of 2,6-lutidine and cooled to 0° C. 12.60 ml of triisopropysilyl trifluoromethanesulphonate are added dropwise, and the reaction mixture is stirred at 0° C. for 1 hour. The reaction solution is poured into 400 ml of water, and the phases are separated. The aqueous phase is back-extracted with 200 ml of dichloromethane, and the combined organic phases are dried with sodium sulphate and evaporated. The title compound is obtained as a yellow-brown oil from the residue by flash chromatography (SiO2 F60). Rf (EtOAc/heptane 1:2)=0.66; Rt=5.83.

reactant | 4-(4-benzyloxyphenyl)-1-(1-phenylethyl)-1,2,3,4-tetrahydro-pyridin-3-ol | 14.70 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1C(CN(C=C1)C(C)C1=CC=CC=C1)O | C26H27NO2
reactant | 2,6-lutidine | 6.80 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | triisopropysilyl trifluoromethanesulphonate | 12.60 ml | FC(S(=O)(=O)O[Si](C(C)C)(C(C)C)C(C)C)(F)F | C10H21F3O3SSi
reactant | water | 400 ml | O | H2O
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | 4-(4-Benzyloxyphenyl)-1-(1-phenylethyl)-3-triisopropylsilanyloxy-1,2,3,4-tetrahydro-pyridine | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1C(CN(C=C1)C(C)C1=CC=CC=C1)O[Si](C(C)C)(C(C)C)C(C)C | C35H47NO2Si
